chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br-:2].[Br:1][C:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24]>>[Br-:1].[Br:2][C:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24],38.771770017212994
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([H:11])[H:21].[H-:2]>>[Br-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([H:11])[H:21],10.247301611874216
[Br-:2].[F:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22]>>[Br:2][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:1],43.10691559090925
[Cl:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21].[F-:2]>>[Cl-:1].[F:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([H:11])[H:21],16.28430848813777
[Cl-:2].[Cl:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[C:4](=[C:5](/[C:11]#[N:12])[N:21]([H:22])[H:23])(\[C:31]#[N:32])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],25.29428615622017
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[H:21]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[H:21],20.53661690159977
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F:2][H:3],16.896232578672556
[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[F:2][H:3],14.079704110424355
[F-:2].[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[H:21]>>[F-:1].[F:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N+:11]([O-:12])[O:13])[H:21],12.768189970485675
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[C:21]#[N:22]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[Cl:2][H:3],42.67387485953857
[F-:2].[F:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[N:21]([H:22])[H:23],28.57632429253129
[Cl:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[Cl-:1].[H:2][H:3],11.268944063713535
[Cl-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[C:21]#[N:22]>>[Cl-:1].[Cl:2][C:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]#[N:12])[C:21]#[N:22],18.64715917220837
[F-:2].[F:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],43.171592880815496
[Cl:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([C:11]#[N:12])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[C:11]#[N:12])[N+:21]([O-:22])[O:23])(\[C:31]#[N:32])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],0.8651631262462409
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl:2][H:3],25.56744731677995
[Cl-:2].[F:1][C:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[H:21]>>[Cl:2][C:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([H:11])[H:21].[F-:1],42.8520463183708
[Cl:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[N:21]([H:22])[H:23])([H:31])[H:41].[Cl-:1].[H:2][H:3],12.47361489324964
[Cl:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[N:21]([H:22])[H:23])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],2.5858940194858224
[Br-:2].[Cl:1][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[H:21]>>[Br:2][C:5]([C:4]([H:3])([H:31])[C:41]#[N:42])([H:11])[H:21].[Cl-:1],26.78919805430096
[F:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C@@:5]([C@:4]([H:3])([C:31]#[N:32])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],28.56229143311697
